US06239284B1
At 0° C., lithium hydroxide monohydrate (8.41 g, 0.2 mol) is added to a solution of methyl 3-bromophenoxyacetate (19.66 g, 80 mmol) in solution in 100 ml of a water-THF mixture (3:1). Agitation is continued for 15 minutes at 0° C. and then the mixture is acidified by a 3N aqueous solution of hydrochloric acid. It is extracted with ether, dried over MgSO4, filtered and evaporated. 18.21 g of 3-bromophenoxyacetic acid is obtained (yield=98%).

reactant | lithium hydroxide monohydrate | 0.2 mol, 8.41 g | O.[OH-].[Li+]
reactant | methyl 3-bromophenoxyacetate | 80 mmol, 19.66 g | BrC=1C=C(OCC(=O)OC)C=CC1 | C9H9BrO3
reactant | hydrochloric acid | Cl | ClH
solvent | water THF | 100 ml | O.C1CCOC1
product | 3-bromophenoxyacetic acid | 18.21 g, yield=98% | BrC=1C=C(OCC(=O)O)C=CC1 | C8H7BrO3
